US06313116B1
2-(Piperidin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid
Starting from 7-bromo-2-(piperidin-1-yl)-4-methoxybenzothiazole (1.4 g), palladium (II) acetate (100 mg), bis-diphenylphosphinopropane (350 mg), and triethylamine (6 ml) in tetrahydrofuran (200 ml) and water (20 ml). Trituration ofthe residue with diethyl ether yielded the title compound as a yellow solid (700 mg). TLC Rf 0.66 (ethyl acetate).

reactant | 7-bromo-2-(piperidin-1-yl)-4-methoxybenzothiazole | 1.4 g | BrC1=CC=C(C=2N=C(SC21)N2CCCCC2)OC | C13H15BrN2OS
reactant | bis-diphenylphosphinopropane | 350 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C)(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
catalyst | palladium (II) acetate | 100 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(Piperidin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid | 700 mg | N1(CCCCC1)C=1SC2=C(N1)C(=CC=C2C(=O)O)OC | C14H16N2O3S
